US05681836
Step 1: Methyl benzo[b]furan-3-carboxylate
A mixture of benzo[b]furan-3-yl trifluoromethanesulfonate (5.00 g, 18.8 mmol), triethylamine (5.2 ml, 37.3 mmol), palladium (II) acetate (0.130 g, 0.579 mmol), 1,1'-bis(diphenylphosphino)ferrocene (0.628 g, 1.13 mmol), and methanol (17 ml) in dimethylformamide (40 ml) was purged with carbon monoxide for 20 minutes and stirred under a carbon monoxide balloon at 60° C. for 2.5 hours. The reaction mixture was allowed to cool, diluted with water (250 ml) and extracted with ethyl acetate (2×100 ml). The extracts were washed with 1M hydrochloric acid (100 ml) then saturated brine (100 ml), combined and dried (magnesium sulfate). The solvent was evaporated and the residue purified by flash chromatography, eluting with 5% ethyl acetate in petrol (60°-80° ) then 10% ethyl acetate in petrol (60°-80° ), to afford the title compound (2.65 g, 80%) as a pale yellow oil; δH (CDCl3) 3.94 (3H, s, CO2CH3), 7.34-7.39 (2H, m, ArH), 7.53 (1H, m, ArH), 8.07 (1H, m, ArH), 8.26 (1H, s, 2-H).

reactant | benzo[b]furan-3-yl trifluoromethanesulfonate | 18.8 mmol, 5.00 g | FC(S(=O)(=O)OC=1C2=C(OC1)C=CC=C2)(F)F | C9H5F3O4S
reactant | triethylamine | 37.3 mmol, 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanol | 17 ml | CO | CH4O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.579 mmol, 0.130 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1'-bis(diphenylphosphino)ferrocene | 1.13 mmol, 0.628 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl benzo[b]furan-3-carboxylate | 2.65 g, 80% | O1C2=C(C(=C1)C(=O)OC)C=CC=C2 | C10H8O3
